US03975375
C. N-aminocarbonyl-imidazolid-2-one ##SPC23##
29.7 parts by weight of N-chlorocarbonyl-imidazolid-2-one, were reacted at pH = 8.5 and room temperature with 20 parts by volume of 25% strength aqueous solution of NH3 in 80% strength aqueous tetrahydrofurane. After stripping off the tetrahydrofurane in vacuo, the product which precipitated was filtered off and washed with a little ice water. Yield after drying over P2O5 in a desiccator: 62%. Melting point 200° C.

reactant | N-chlorocarbonyl-imidazolid-2-one | ClC(=O)N1C(NCC1)=O | C4H5ClN2O2
reactant | NH3 | N | H3N
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | N-aminocarbonyl-imidazolid-2-one | NC(=O)N1C(NCC1)=O | C4H7N3O2
